US05274116
2-[2-[(3-Methyl-2-thienyl)carbonyl]-1H-pyrrol-1-yl]-1H-isoindole-1,3(2H)dione
To a stirred solution consisting of 3-methyl-2-thiophenecarboxylic acid (21.0 g) in dry DCM (1.5 l) was added oxalyl chloride (21.0 ml) at room temperature under nitrogen. After stirring for 1 hour at room temperature, the reaction mixture was cooled to -10° C. and tin (IV) chloride (17.3 ml) was added. The resulting solution was stirred for 10 minutes (-10° C.) at which time 2-(1H-pyrrol-1-yl)-1H-isoindole-1,3(2H)dione (31.3 g) was added in three portions. After stirring for 1 hour in the cooling bath, the reaction mixture was poured into cold water and the layers separated. The organic phase was washed twice with 5% HCl (aq.) and dried (MgSO4). Filtration and concentration gave the crude product. Purification via preparative HPLC (silica gel, DCM) afforded 12.5 g of the product as a solid, m.p. 221°-223° C.

reactant | 3-methyl-2-thiophenecarboxylic acid | 21.0 g | CC1=C(SC=C1)C(=O)O | C6H6O2S
reactant | oxalyl chloride | 21.0 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | tin (IV) chloride | 17.3 ml | [Sn](Cl)(Cl)(Cl)Cl
reactant | 2-(1H-pyrrol-1-yl)-1H-isoindole-1,3(2H)dione | 31.3 g | N1(C=CC=C1)N1C(C2=CC=CC=C2C1=O)=O | C12H8N2O2
solvent | DCM | 1.5 l | C(Cl)Cl | CH2Cl2
solvent | water | O | H2O
product | 2-[2-[(3-Methyl-2-thienyl)carbonyl]-1H-pyrrol-1-yl]-1H-isoindole-1,3(2H)dione | 12.5 g | CC1=C(SC=C1)C(=O)C=1N(C=CC1)N1C(C2=CC=CC=C2C1=O)=O | C18H12N2O3S
